US08729274B2
cis-2-Benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.561 mmol, 200 mg) was dissolved in THF (5 ml) and the resulting solution was cooled to −78° C. Butyllithium (2.5 M in hexanes)(2.81 mmol, 1.123 ml) was added dropwise and the reaction mixture was stirred at −78° C. for 30 minutes. N,N-Dimethylformamide (8.42 mmol, 0.777 ml, 734 mg) was added and the reaction mixture was stirred at −78° C. for a further 2 h and then quenched by the addition of saturated aqueous ammonium chloride solution and allowed to warm to room temperature. The resulting biphasic solution was separated and the aqueous phase was further extracted with ether (2×). The combined organic extracts were dried over magnesium sulphate, filtered and the solvent removed in vacuo. The crude product was purified by silica column chromatography (eluting with heptane—50:50 EtOAc:Heptane) to afford cis-2-benzyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole-6-carbaldehyde (95 mg), 1H NMR (400 MHz, CDCl3) ppm 10.29 (1H, s, CHO), 7.67-7.61 (1H, m, Ar—H), 3.62-3.55 (2H, m, NCH2Ph), 3.32-3.04 (4H, m, 4×CH), 2.73 (1H, d, CH), 2.49 (1H, d, CH), 2.30 (1H, t, CH), 1.88-1.78 (1H, m, CH), 1.53-1.45 (1H, m, CH), 1.20 (3H, s, CH3).

reactant | cis-2-Benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.561 mmol, 200 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3Br)C | C20H22BrN
reactant | Butyllithium | 2.81 mmol, 2.5 M, 1.123 ml | C(CCC)[Li]
reactant | N,N-Dimethylformamide | 8.42 mmol, 0.777 ml, 734 mg | CN(C=O)C | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | cis-2-benzyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole-6-carbaldehyde | 95 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3C=O)C | C21H23NO
